US06579868B1
To a solution of 200 mg of 4-[6-amino-9-ethyl-8-(3-fluorophenyl)-9H-2-purinyl]-2-methyl-3-butyn-2-ol in 20 ml of methanol were added 5 μl of quinoline and 20 mg of 10% palladium/barium carbonate and the mixture was stirred in a hydrogen atmosphere at room temperature for 10 minutes. The palladium/barium carbonate was filtered off and the filtrate was concentrated and then the resulting residue was subjected to a silica gel column chromatography (15 g of silica gel; dichloromethane-dichloromethane/methanol=60:1-40:1) to give (Z)-4-[6-amino-9-ethyl-8-(3-fluorophenyl)-9H-2-purinyl]-2-methyl-3-buten-2-ol. This was dissolved in methanol and five drops of 5N hydrochloric acid were added thereto followed by concentrating. Ethyl acetate and ether were added to the resulting residue and the crystals were collected by filtration and washed with ether to give 851 mg of the product. The yield was 26%.

reactant | 4-[6-amino-9-ethyl-8-(3-fluorophenyl)-9H-2-purinyl]-2-methyl-3-butyn-2-ol | 200 mg | NC1=C2N=C(N(C2=NC(=N1)C#CC(C)(O)C)CC)C1=CC(=CC=C1)F | C18H18FN5O
reactant | quinoline | 5 μl | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | palladium/barium carbonate | 20 mg | [Pd] | Pd
product | (Z)-4-[6-amino-9-ethyl-8-(3-fluorophenyl)-9H-2-purinyl]-2-methyl-3-buten-2-ol | NC1=C2N=C(N(C2=NC(=N1)\C=C/C(C)(O)C)CC)C1=CC(=CC=C1)F | C18H20FN5O
